US06939870B2
Catalytic 10% Pd/C was added to a dried hydrogenation bottle under N2 and slowly under nitrogen 8-bromo-6-chloro-3-[3-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-4(3H)-quinazolinone (1.52 g, 3.05 mmol) in 150 mL of ethanol was added. This sample was hydrogenated at 30-40 psi hydrogen pressure overnight. The mixture was filtered over celite and concentrated then chromatographed; 6-chloro-3-[3-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-4(3H)-quinazolinone was isolated as a yellow powder (0.47 g). Yield 37%; mp 170° C.; MS: 418.8 (M+H)+; 1H NMR (300 MHz, DMSO-d6): δ 2.14 (m, 2H), 2.51 (m, 4H), 2.67 (m, 2H), 3.31 (m, 2H), 4.10 (t, J=4.8 Hz), 6.15 (t, 1H), 7.06 (m, 2H), 7.36 (d, 1H), 7.75 (m, 1H), 7.80 (m, 2H), 8.12 (d, 1H), 8.32 (s, 1H), 8.45 (s, 1H), 11.2 (s, 1H).

reactant | nitrogen 8-bromo-6-chloro-3-[3-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-4(3H)-quinazolinone | 3.05 mmol, 1.52 g | BrC=1C=C(C=C2C(N(C=NC12)CCCN1CCC(=CC1)C1=CNC2=CC=CC=C12)=O)Cl.[N]
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 6-chloro-3-[3-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-4(3H)-quinazolinone | Yield 37% | ClC=1C=C2C(N(C=NC2=CC1)CCCN1CCC(=CC1)C1=CNC2=CC=CC=C12)=O | C24H23ClN4O
